US05981572
2-[3-(7-Chloro-benzofuran-4-yl)-propyl]-isoindole-1,3-dione
Diethylazodicarboxylate (0.35 ml) was added dropwise to a solution of triphenylphosphine (587 mg) and phthalimide (329 mg) in dry THF (10 ml) at 0° under nitrogen. A solution of 3-(7-chloro-benzofuran-4-yl)-propan-1-ol (364 mg) in THF (5 ml) was then added and the mixture allowed to warm to room temperature and stirred for 2 h. The solvent was evaporated and the residue purified by column chromatography, eluting with cyclohexane/ether 3:1 gave the title compound as a colourless solid (521 mg)

reactant | Diethylazodicarboxylate | 0.35 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 587 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 329 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 3-(7-chloro-benzofuran-4-yl)-propan-1-ol | 364 mg | ClC1=CC=C(C=2C=COC21)CCCO | C11H11ClO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-[3-(7-Chloro-benzofuran-4-yl)-propyl]-isoindole-1,3-dione | 521 mg | ClC1=CC=C(C=2C=COC21)CCCN2C(C1=CC=CC=C1C2=O)=O | C19H14ClNO3
